US05432169
3β-(2-(N-(2-(1-Pyrrolidinyl)ethyl)methylamino)ethylthio)-17β-(3-furyl)-5β-androstan-14β-ol (I-bz)
To a solution of 0.34 g of N-(2-(1-pyrrolidinyl)ethyl) methylamine in 5 ml of dimethylformamide, 0.045 g of NaH (60% dispersion in mineral oil) were added under nitrogen and the mixture was stirred at room temperature for half an hr; a solution of 0.50 g of 3β-(2-tosyloxyethylthio)-17β-(3-furyl)-5β-androstan-14β-ol, prepared as described in Ex. 51, in 2 ml of dimethylformamide was added, the mixture was stirred for another 4 hrs and then 7 ml of water were poured in. The residue was extracted with ethyl acetate, the organic solution was washed with water to neutral pH, dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using methylene chloride/methanol 95/5 as eluant to give 0.28 g of the title compound (I-ca)as an amorphous solid.

reactant | N-(2-(1-pyrrolidinyl)ethyl) methylamine | 0.34 g | N1(CCCC1)CCNC | C7H16N2
reactant | NaH | 0.045 g | [H-].[Na+]
reactant | 3β-(2-tosyloxyethylthio)-17β-(3-furyl)-5β-androstan-14β-ol | 0.50 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCS[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C32H44O5S2
reactant | water | 7 ml | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3β-(2-(N-(2-(1-Pyrrolidinyl)ethyl)methylamino)ethylthio)-17β-(3-furyl)-5β-androstan-14β-ol | 0.28 g | N1(CCCC1)CCN(CCS[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O)C | C32H52N2O2S
